US08754100B2
Synthesis of methyl 4-cyano-4-(2-trifluoromethylphenyl)butanoate
2-(Trifluoromethyl)phenylacetonitrile (2.0 g) was dissolved in tetrahydrofuran (50 mL). Potassium tert-butoxide (60.6 mg), 18-crown-6 (2.85 g) and methyl acrylate (973 μL) were added at 0° C. and the mixture was stirred at the same temperature for 40 minutes. The reaction was terminated with saturated ammonium chloride, followed by dilution with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. Concentration under reduced pressure gave an oil. The oil was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 30%) to obtain the title compound (2.2 g).

reactant | 2-(Trifluoromethyl)phenylacetonitrile | 2.0 g | FC(C1=C(C=CC=C1)CC#N)(F)F | C9H6F3N
reactant | 18-crown-6 | 2.85 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl acrylate | 973 μL | C(C=C)(=O)OC | C4H6O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Potassium tert-butoxide | 60.6 mg | CC(C)([O-])C.[K+]
product | methyl 4-cyano-4-(2-trifluoromethylphenyl)butanoate | 2.2 g | C(#N)C(CCC(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C13H12F3NO2
